US06506901B2
Step B: 4-Aminomethyl-1-hexyl-piperidine
Prepared from 1-hexylpiperidine-4-carboxamide (6.6 g, 31.0 mmol) and LAH (1.93 g, 62.0 mmol) according to general the procedure used for Example 8 (Step B) to give 4.6 g of title compound as a waxy solid.

reactant | 1-hexylpiperidine-4-carboxamide | 31.0 mmol, 6.6 g | C(CCCCC)N1CCC(CC1)C(=O)N | C12H24N2O
reactant | LAH | 62.0 mmol, 1.93 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-Aminomethyl-1-hexyl-piperidine | 4.6 g | NCC1CCN(CC1)CCCCCC | C12H26N2
